US07202363B2
7-[(1E)-3-(diethylamino)prop-1-enyl]-3-(4-phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine
7-Iodo-3-(4-phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine (0.100 g, 0.233 mmol) in 1,2-dimethoxyethane (4 mL) and water (2 mL) was reacted with an 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.09 g, 0.35 mmol), sodium carbonate (0.05 g, 0.47 mmol) and tetrakis triphenylphosphine palladium (0) (0.02 g, 0.014 mmol) at 90° C. for 18 hours. The solvent was removed in vacuo and the residue was dissolved in acetone/water 95:5 (10 mL) then p-toluene sulfonic acid was added. The mixture was stirred at ambient temperature for 18 hours then evaporated and the residue dissolved in 1,2-dichloroethane (4 mL). Diethylamine (100 mg) was added followed by sodium triacetoxyborohydride (100 mg). The mixture was stirred for 18 hours then the concentrated and by preparative RP-HPLC (Rainin C18, 8 mm, 100 Å, 25 cm; 20% acetonitrile—0.1M ammonium acetate isocratic for 5 minutes, then 20–80% acetonitrile—0.1M ammonium acetate over 30 min, 21 ml/min) followed by treatment with Silica-carbonate and lyophilization: 1H NMR (DMSO-d6, 400 MHz) δ 8.08 (s, 1H), 7.7 (d, 2H), 7.46 (t, 2H), 7.16–7.25 (m, 5H), 6.6 (d, 1H), 6.49 (m, 1H), 6.33 (bs, 2H), 3.25 (d, 2H), 2.50 (q, 4H), 1.0 (t, 6H); Rt=2.90 min (Conditions a), MS m/e: 413 (M−H)−.

reactant | 7-Iodo-3-(4-phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine | 0.233 mmol, 0.100 g | IC=1C2=C(C(=NC1)N)C(=NO2)C2=CC=C(C=C2)OC2=CC=CC=C2 | C18H12IN3O2
reactant | 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.35 mmol, 0.09 g | C(C)OC(/C=C/B1OC(C(O1)(C)C)(C)C)OCC | C13H25BO4
reactant | sodium carbonate | 0.47 mmol, 0.05 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
product | 7-[(1E)-3-(diethylamino)prop-1-enyl]-3-(4-phenoxyphenyl)isoxazolo[4,5-c]pyridin-4-amine | C(C)N(C/C=C/C=1C2=C(C(=NC1)N)C(=NO2)C2=CC=C(C=C2)OC2=CC=CC=C2)CC | C25H26N4O2
